US08034945B2
(a). 3-Bromo-4,5-bis-(3-methoxy-benzyloxy)-benzaldehyde
A mixture of 5-bromo-3,4-dihydroxybenzaldehyde (100 mg), 3-methoxybenzyl bromide (71 μl), potassium carbonate (140 mg) and tetrabutylammonium iodide (10 mg) in 5 ml of DMF was stirred at 60° C. for 3 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 5-bromo-3,4-dihydroxybenzaldehyde | 100 mg | BrC=1C(=C(C=C(C=O)C1)O)O | C7H5BrO3
reactant | 3-methoxybenzyl bromide | 71 μl | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | potassium carbonate | 140 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-4,5-bis-(3-methoxy-benzyloxy)-benzaldehyde | BrC=1C=C(C=O)C=C(C1OCC1=CC(=CC=C1)OC)OCC1=CC(=CC=C1)OC | C23H21BrO5
